US03931217
A solution of 7.5 g. of phthalaldehydic acid in 30 ml. of ethanol and 34 ml. of ethylenediamine was refluxed for 16 hours. The solution was concentrated in vacuo and the residue was dissolved in methylene chloride. The solution was washed with water, dried and concentrated. The residue was distilled in a bulb tube at 0.3 mm at a bath temperature of 150°-180°. A colorless oil was obtained which was dissolved in methanol and on addition of ethereal hydrogen chloride gave white prisms of 1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one hydrochloride, m.p. 222°-224° dec.

reactant | phthalaldehydic acid | C(C=1C(C=O)=CC=CC1)(=O)O | C8H6O3
reactant | ethanol | C(C)O | C2H6O
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one hydrochloride | Cl.N1CCN2C1C1=CC=CC=C1C2=O | InChI=1S/C10H10N2O.ClH/c13-10-8-4-2-1-3-7(8)9-11-5-6-12(9)10;/h1-4,9,11H,5-6H2;1H
